US06875765B2
To a solution of (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-succinamic acid tert-butyl ester (0.24 g, 0.40 mmol) in dry THF (10 mL) at 0° C. was added Et3N (0.14 mL, 1.0 mmol). A solution of trifluoroacetic anhydride in THF (0.5 M, 0.50 mmol) was added to the solution dropwise. After 30 min of stirring at 0° C., the ice bath was removed. The reaction mixture was allowed to warm up to room temperature over 4 h. The reaction mixture was worked up by addition of EtOAc (100 mL) then followed by washing the organic phase with saturated NaHCO3. Drying and removal of solvents under vacuum gave 0.20 g (92%) of (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid tert-butyl ester as a tan solid. MS (APCI) m/z 539.1 (M+1).

reactant | (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-succinamic acid tert-butyl ester | 0.40 mmol, 0.24 g | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C27H32N4O7S
reactant | Et3N | 1.0 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.50 mmol, 0.5 M | C1CCOC1 | C4H8O
product | (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid tert-butyl ester | 0.20 g, 92% | C(C)(C)(C)OC(C[C@@H](C#N)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C27H30N4O6S
